US05362912
N-(Phenyloxycarbonyl)-L-valine benzyl ester
A slurry of 117.15 g (1 mol) of L-valine, 216.3 g (2.0 mol) of benzyl alcohol and 190.22 g (1.02 mol) of p-toluenesulfonic acid monohydrate in 450 mL of toluene was stirred and heated to reflux in an apparatus fitted with a Dean-Stark trap. After 20 hours the reaction was cooled to room temperature. The solution was poured into 1.5 L of ethyl ether, whereupon the p-toluenesulfonic acid salt of the benzyl ester of valine precipitated. To this thick suspension was added 1.3 L of water and solid sodium carbonate until the solution was alkaline. The aqueous phase was washed with ethyl ether, then the organic layers were combined and extracted with 1 L of 3M phosphoric acid. The organic solvent was discarded, and the aqueous layer was made basic by addition of 4.0M sodium hydroxide. Methylene chloride was added and the mixture was cooled to about 0° C., then 133.11 g (850 mmol) of phenylchloroformate was added over a two minute period. The reaction solution was stirred for one hour, the organic layer was separated and 5 mL of N,N-dimethylethylenediamine was added with mixing. The organic solution was washed once with 1 L of 1N HCl, dried over MgSO4, filtered and concentrated in vacuo, to afford 231.5 g of the title product as a clear syrup. NMR (CDCl3) δ:0.91 (d,3H), 1.02 (d,3H), 2.25 (m, 1H), 4.41 (q, 1H), 5.22 (dd,2H), 5.52 (d,1H), 7.12 (m,2H), 7.20 (m,2H), 7.39 (m, 6H).

reactant | L-valine | 1 mol, 117.15 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | benzyl alcohol | 2.0 mol, 216.3 g | C(C1=CC=CC=C1)O | C7H8O
reactant | p-toluenesulfonic acid monohydrate | 1.02 mol, 190.22 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | phenylchloroformate | 850 mmol, 133.11 g | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
solvent | toluene | 450 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl ether | 1.5 L | C(C)OCC | C4H10O
product | N-(Phenyloxycarbonyl)-L-valine benzyl ester | 231.5 g | C(C1=CC=CC=C1)OC([C@@H](NC(=O)OC1=CC=CC=C1)C(C)C)=O | C19H21NO4
